US04096267
Step A: {1-Oxo-2-[4-(2-chloroacetamidomethyl)phenyl]-2-methyl-6,7-dichloro-5-indanyloxy}acetic acid
Well-pulverized N-hydroxymethyl-2-chloroacetamide (3.37 g., 0.0274 mole) is added portionwise to (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid (10.0 g., 0.0274 mole) in 36N sulfuric acid (100 ml.) and acetic acid (100 ml.) with stirring at 40°-50° C. over one-half hours. Additional N-hydroxymethyl-2-chloroacetamide (1.68 g., 0.014 mole) is added over a four hour period until no starting material remains. After stirring at 25° C. for 16 hours the reaction mixture is added to crushed ice-water (2 l.) to precipitate 11.9 g. of {1-oxo-2-[4-(2-chloroacetamidomethyl)phenyl]-2-methyl-6,7-dichloro-5-indanyloxy}acetic acid which melts at 138°-141° C. and is used in the next step without purification.

reactant | N-hydroxymethyl-2-chloroacetamide | 0.0274 mole, 3.37 g | OCNC(CCl)=O | C3H6ClNO2
reactant | (1-oxo-2-methyl-2-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.0274 mole, 10.0 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C1=CC=CC=C1)C | C18H14Cl2O4
reactant | N-hydroxymethyl-2-chloroacetamide | 0.014 mole, 1.68 g | OCNC(CCl)=O | C3H6ClNO2
solvent | sulfuric acid | 36N, 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | {1-Oxo-2-[4-(2-chloroacetamidomethyl)phenyl]-2-methyl-6,7-dichloro-5-indanyloxy}acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)CNC(CCl)=O | C21H18Cl3NO5
